* File: hw5_SA.pex.spi.pex
* Created: Tue Dec 28 00:50:29 2021
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW5_SA%SON 16 21 26 33 37 60
c0 56 0 0.10159f
c1 52 0 0.120192f
c2 47 0 0.0218765f
c3 43 0 0.134433f
c4 41 0 0.158671f
c5 37 0 0.104907f
c6 33 0 0.0906254f
c7 29 0 0.214088f
c8 26 0 0.00406444f
c9 21 0 0.0101993f
c10 18 0 0.022555f
c11 15 0 0.0381444f
c12 12 0 0.0826747f
c13 11 0 0.10912f
c14 9 0 0.107552f
c15 6 0 0.409442f
r16 56 60 0.0661111
r17 47 49 0.013
r18 41 47 8
r19 40 43 5.84211
r20 40 41 13.2552
r21 35 43 5.62351
r22 35 37 32
r23 31 43 5.62351
r24 31 33 23.8
r25 28 29 16.3327
r26 26 28 4.59
r27 24 56 0.0195555
r28 23 24 16.3327
r29 21 23 4.59
r30 19 60 0.0998148
r31 18 19 16.3327
r32 16 18 4.59
r33 14 29 0.246037
r34 14 15 0.0296412
r35 12 52 0.0428193
r36 11 13 0.0182192
r37 11 12 8
r38 9 24 0.0195555
r39 8 15 0.0296412
r40 8 9 0.0832222
r41 7 13 0.0204701
r42 6 15 0.00770322
r43 6 7 0.670185
r44 3 49 0.0198502
r45 3 52 0.229907
.ends

.subckt PM_HW5_SA%SO 8 13 18 25 29 51
c0 55 0 0.098166f
c1 43 0 0.0783763f
c2 39 0 0.0540996f
c3 35 0 0.151697f
c4 34 0 0.133048f
c5 29 0 0.0842061f
c6 25 0 0.115606f
c7 21 0 0.266512f
c8 20 0 0.00300972f
c9 16 0 0.113094f
c10 5 0 0.0395737f
c11 2 0 0.355044f
r12 49 55 0.0230543
r13 49 51 0.00518519
r14 43 45 0.0428193
r15 39 40 0.0129139
r16 38 55 0.0133192
r17 38 46 0.046084
r18 38 39 8
r19 35 43 8
r20 34 35 13.2552
r21 31 34 5.84211
r22 27 31 5.62351
r23 27 29 23.75
r24 23 31 5.62351
r25 23 25 32.05
r26 21 46 0.352593
r27 20 21 16.3327
r28 18 20 4.59
r29 16 51 0.11537
r30 15 16 16.3327
r31 13 15 4.59
r32 11 55 0.00147992
r33 10 11 16.3327
r34 8 10 4.59
r35 5 45 0.0794444
r36 3 40 0.0200575
r37 2 5 0.0363174
r38 2 3 0.948519
.ends

.subckt PM_HW5_SA%COM 7 14 19 24 25 29
c0 52 0 0.0586481f
c1 46 0 0.0341434f
c2 43 0 0.0920135f
c3 40 0 0.0499481f
c4 34 0 0.0254694f
c5 32 0 0.0851606f
c6 28 0 0.165306f
c7 17 0 0.0777589f
c8 8 0 0.418422f
c9 4 0 0.0673229f
c10 2 0 0.210951f
r11 52 55 0.0476978
r12 46 50 0.0440556
r13 43 44 8
r14 40 44 0.0449222
r15 34 38 0.0442
r16 32 55 8
r17 31 32 16.3327
r18 29 31 4.59
r19 28 50 8
r20 27 28 16.3327
r21 25 27 4.59
r22 24 27 4.59
r23 21 43 16.3327
r24 19 21 4.59
r25 17 38 8
r26 16 17 16.3327
r27 14 16 4.572
r28 9 46 0.0198502
r29 8 52 0.0174797
r30 8 9 0.758333
r31 5 40 0.0198502
r32 5 7 0.202222
r33 4 46 0.0198502
r34 4 7 0.0433333
r35 3 34 0.0198502
r36 2 40 0.0198502
r37 2 3 0.597037
.ends

.subckt PM_HW5_SA%VSS 18 25 26 30 46
c0 46 0 0.0337186f
c1 33 0 0.0882233f
c2 32 0 0.00321242f
c3 29 0 0.128579f
c4 25 0 0.00443817f
c5 15 0 0.103887f
c6 11 0 0.0509795f
c7 10 0 0.216621f
c8 7 0 0.0348571f
c9 6 0 0.0633658f
c10 5 0 0.102975f
c11 3 0 0.113148f
c12 2 0 0.326875f
r13 32 33 16.3327
r14 30 32 4.59
r15 28 29 16.3327
r16 26 28 4.59
r17 25 28 4.59
r18 21 46 0.0225556
r19 21 38 8
r20 18 21 16.3327
r21 15 17 0.0191759
r22 15 16 8
r23 13 33 0.0609259
r24 13 15 0.0462737
r25 12 29 0.119
r26 11 12 0.0391863
r27 10 17 0.0238942
r28 10 11 0.3094
r29 6 38 0.0430617
r30 6 7 0.085463
r31 5 7 0.0363174
r32 4 5 0.26
r33 3 16 0.0732139
r34 2 4 0.0363174
r35 2 3 0.364722
.ends

.subckt PM_HW5_SA%INN 4 11
c0 11 0 0.146906f
c1 6 0 0.131932f
c2 2 0 0.0666342f
r3 6 11 13.2552
r4 2 6 8.69486
r5 2 4 17.5
.ends

.subckt PM_HW5_SA%NET093 2 7
c0 10 0 0.164278f
c1 7 0 0.0070625f
c2 4 0 0.0165009f
r3 9 10 16.3327
r4 7 9 4.59
r5 5 10 0.19963
r6 4 5 16.3327
r7 2 4 4.59
.ends

.subckt PM_HW5_SA%EN 4 9 17 25 28 39
c0 37 0 0.0142443f
c1 36 0 0.0145208f
c2 35 0 0.131584f
c3 34 0 0.0175518f
c4 30 0 0.038625f
c5 28 0 0.135424f
c6 25 0 0.0790799f
c7 20 0 0.0602048f
c8 18 0 0.14645f
c9 17 0 0.0619478f
c10 12 0 0.0602696f
c11 11 0 0.0756021f
c12 10 0 0.0674802f
c13 9 0 0.0569918f
c14 4 0 0.137453f
r15 35 39 0.207407
r16 34 35 4.4184
r17 30 32 3.97586
r18 30 31 9.51432
r19 26 37 3.81101
r20 26 28 43.75
r21 23 37 3.81101
r22 23 25 31.55
r23 22 25 17.5
r24 21 36 3.81101
r25 20 37 0.990414
r26 20 21 25.5
r27 19 34 1.61899
r28 18 22 6.45644
r29 18 19 9.76596
r30 15 36 0.990414
r31 15 17 31.55
r32 14 34 3.64594
r33 14 17 17.5
r34 13 30 2.13245
r35 12 36 3.81101
r36 12 13 25.5
r37 10 34 1.61899
r38 10 11 9.76596
r39 9 31 23.55
r40 6 11 6.45644
r41 6 9 17.5
r42 4 32 43.75
.ends

.subckt PM_HW5_SA%NET089 2 7
c0 10 0 0.153276f
c1 7 0 0.00777126f
c2 4 0 0.00551315f
r3 9 10 16.3327
r4 7 9 4.59
r5 5 10 0.19963
r6 4 5 16.3327
r7 2 4 4.59
.ends

.subckt PM_HW5_SA%VDD 7 20 21 26 31 36
c0 43 0 0.0296081f
c1 39 0 0.0962038f
c2 38 0 0.0128872f
c3 34 0 0.081037f
c4 31 0 0.0113959f
c5 29 0 0.0834874f
c6 28 0 0.0117705f
c7 24 0 0.0750078f
c8 18 0 0.0116358f
c9 16 0 0.0117442f
c10 14 0 0.0112624f
c11 10 0 0.246409f
c12 8 0 0.0477141f
c13 4 0 0.218556f
c14 3 0 0.0207752f
c15 2 0 0.0800802f
r16 38 39 16.3327
r17 36 38 4.59
r18 33 34 16.3327
r19 31 33 4.59
r20 28 29 16.3327
r21 26 28 4.59
r22 23 24 16.3327
r23 21 23 4.59
r24 20 43 16.3327
r25 19 39 0.127037
r26 17 34 0.127037
r27 17 18 0.00770322
r28 15 29 0.127037
r29 15 16 0.00770322
r30 13 24 0.127037
r31 13 14 0.00770322
r32 12 43 0.114074
r33 11 18 0.0296412
r34 10 19 0.039111
r35 10 11 0.487407
r36 9 16 0.0296412
r37 8 18 0.0296412
r38 8 9 0.130926
r39 5 14 0.0296412
r40 5 7 0.347407
r41 4 16 0.0296412
r42 4 7 0.14
r43 3 12 0.039111
r44 2 14 0.0296412
r45 2 3 0.247593
.ends

.subckt PM_HW5_SA%INP 4 10
c0 10 0 0.140854f
c1 6 0 0.13105f
c2 2 0 0.0672699f
r3 6 10 13.2552
r4 2 6 8.69486
r5 2 4 17.5
.ends

