* File: hw2_part1_2.pex.spi.pex
* Created: Thu Nov 11 10:56:45 2021
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW2_PART1_2%VSS 33 73 74 80 81 87 94 95 101 102 108 144
c0 149 0 0.0878147f
c1 135 0 0.0754718f
c2 118 0 0.0357078f
c3 117 0 0.0259823f
c4 111 0 0.337514f
c5 105 0 0.447432f
c6 98 0 0.447836f
c7 90 0 0.362815f
c8 84 0 0.447432f
c9 77 0 0.456995f
c10 36 0 0.25538f
c11 32 0 0.0233432f
c12 31 0 0.0878147f
c13 28 0 0.0233432f
c14 27 0 0.0608608f
c15 19 0 0.0849088f
c16 18 0 0.118387f
c17 17 0 0.0233432f
c18 16 0 0.0878147f
c19 13 0 0.0233432f
c20 12 0 0.136318f
c21 6 0 0.0422547f
c22 2 0 0.507236f
r23 111 113 0.2
r24 111 135 0.242
r25 110 113 16.3327
r26 110 111 5.44423
r27 108 110 1.1475
r28 105 107 0.2
r29 104 107 16.3327
r30 104 105 5.44423
r31 102 104 1.1475
r32 101 104 1.1475
r33 98 100 0.2
r34 97 100 16.3327
r35 97 98 5.44423
r36 95 97 1.1475
r37 94 97 1.1475
r38 90 92 0.2
r39 89 92 16.3327
r40 89 90 5.44423
r41 87 89 1.1475
r42 84 86 0.2
r43 83 86 16.3327
r44 83 84 5.44423
r45 81 83 1.1475
r46 80 83 1.1475
r47 77 79 0.2
r48 76 79 16.3327
r49 76 77 5.44423
r50 74 76 1.1475
r51 73 76 1.1475
r52 71 135 0.0195555
r53 71 149 0.0195555
r54 70 71 16.3327
r55 68 149 0.116
r56 67 70 17.28
r57 67 68 5.44423
r58 62 63 5.44423
r59 58 62 17.28
r60 58 59 16.3327
r61 54 55 5.44423
r62 49 50 5.44423
r63 45 49 25.92
r64 45 144 8.16635
r65 41 42 8.16635
r66 36 42 0.192
r67 35 36 5.44423
r68 33 67 12.96
r69 33 62 12.96
r70 33 54 21.6
r71 33 49 4.32
r72 33 41 8.64
r73 33 35 8.64
r74 31 63 0.128
r75 31 32 0.0296412
r76 30 68 0.09
r77 30 32 0.0296412
r78 29 105 0.242
r79 29 32 0.00770322
r80 27 59 0.044
r81 27 28 0.0296412
r82 26 63 0.078
r83 26 28 0.0296412
r84 25 98 0.242
r85 25 28 0.00770322
r86 24 118 0.0651555
r87 23 24 8
r88 21 90 0.242
r89 20 23 0.0814655
r90 20 21 0.0137162
r91 19 55 0.094
r92 19 20 0.0307887
r93 18 59 0.078
r94 18 23 0.0398404
r95 16 50 0.106
r96 16 17 0.0296412
r97 15 55 0.112
r98 15 17 0.0296412
r99 14 84 0.242
r100 14 17 0.00770322
r101 12 144 0.118
r102 12 13 0.0296412
r103 11 50 0.1
r104 11 13 0.0296412
r105 10 77 0.242
r106 10 13 0.00770322
r107 9 117 0.0367383
r108 8 9 8
r109 6 36 0.333
r110 6 8 0.039754
r111 2 118 0.00947601
r112 2 117 1.6315
.ends

.subckt PM_HW2_PART1_2%A 5 12 16 20 24 28 32 36 40 44 53 57 61 65 69 73 77 81
c0 122 0 0.358464f
c1 121 0 0.356227f
c2 110 0 0.901354f
c3 81 0 0.244653f
c4 77 0 0.199276f
c5 73 0 0.199277f
c6 69 0 0.199282f
c7 65 0 0.272855f
c8 61 0 0.224879f
c9 57 0 0.230431f
c10 53 0 0.230431f
c11 46 0 0.187658f
c12 44 0 0.23055f
c13 40 0 0.23055f
c14 36 0 0.23055f
c15 32 0 0.23055f
c16 28 0 0.23055f
c17 24 0 0.23055f
c18 20 0 0.23055f
c19 16 0 0.230409f
c20 12 0 0.259884f
c21 9 0 0.869419f
c22 8 0 0.0380635f
c23 7 0 0.155983f
c24 5 0 0.115506f
r25 120 122 9.94737
r26 120 121 6.6276
r27 118 120 0.947368
r28 117 118 10.8947
r29 116 121 0.14
r30 115 117 6.15789
r31 115 116 4.4184
r32 113 115 4.73684
r33 112 113 10.8947
r34 108 110 9.85263
r35 108 109 6.6276
r36 106 108 1.04211
r37 105 106 10.8947
r38 104 109 0.14
r39 103 105 6.06316
r40 103 104 4.4184
r41 101 103 4.83158
r42 100 101 10.8947
r43 99 100 10.8947
r44 98 104 0.21
r45 97 99 0.378947
r46 97 98 4.4184
r47 95 97 10.5158
r48 94 95 10.8947
r49 93 98 0.21
r50 92 94 5.58947
r51 92 93 4.4184
r52 90 92 5.30526
r53 89 90 10.8947
r54 88 93 0.21
r55 87 89 10.8
r56 87 88 4.4184
r57 85 87 0.0947368
r58 83 85 10.8947
r59 79 122 5.62351
r60 79 81 104.75
r61 75 118 5.62351
r62 75 77 104.75
r63 71 117 5.62351
r64 71 73 104.75
r65 67 113 5.62351
r66 67 69 104.75
r67 63 110 5.62351
r68 63 65 123.6
r69 59 112 5.62351
r70 59 61 104.75
r71 55 106 5.62351
r72 55 57 123.6
r73 51 105 5.62351
r74 51 53 123.6
r75 48 49 4.4184
r76 46 112 1.42105
r77 46 48 9.93158
r78 42 101 5.62351
r79 42 44 123.6
r80 38 100 5.62351
r81 38 40 123.6
r82 34 99 5.62351
r83 34 36 123.6
r84 30 95 5.62351
r85 30 32 123.6
r86 26 94 5.62351
r87 26 28 123.6
r88 22 90 5.62351
r89 22 24 123.6
r90 18 89 5.62351
r91 18 20 123.6
r92 14 85 5.62351
r93 14 16 123.6
r94 10 83 5.62351
r95 10 12 123.6
r96 9 109 0.0404035
r97 7 49 0.0993509
r98 7 8 0.0194228
r99 6 116 0.0675439
r100 6 8 0.0194228
r101 3 9 0.0420923
r102 3 5 0.119
r103 2 8 0.0180446
r104 2 5 0.174
.ends

.subckt PM_HW2_PART1_2%B 5 14 18 22 26 30 34 38 42 46 50 54
c0 83 0 0.414525f
c1 81 0 0.351536f
c2 70 0 0.443929f
c3 69 0 0.234495f
c4 56 0 0.0923289f
c5 54 0 0.250105f
c6 50 0 0.206083f
c7 46 0 0.265004f
c8 42 0 0.206459f
c9 38 0 0.23157f
c10 34 0 0.206417f
c11 30 0 0.232316f
c12 26 0 0.254359f
c13 22 0 0.232278f
c14 18 0 0.232181f
c15 14 0 0.274912f
c16 9 0 0.0280682f
c17 8 0 0.247328f
c18 6 0 0.0741548f
c19 5 0 0.109111f
r20 82 83 10.8947
r21 80 82 1.18421
r22 80 81 4.4184
r23 78 80 9.71053
r24 77 78 10.8947
r25 76 81 0.21
r26 75 77 6.39474
r27 75 76 4.4184
r28 72 75 4.5
r29 68 70 7.10526
r30 68 69 6.6276
r31 66 68 3.78947
r32 65 66 10.8947
r33 64 69 0.14
r34 63 65 3.31579
r35 63 64 4.4184
r36 61 63 7.57895
r37 60 61 10.8947
r38 58 60 8.52632
r39 58 59 4.4184
r40 56 58 2.36842
r41 52 83 5.62351
r42 52 54 110
r43 48 82 5.62351
r44 48 50 110
r45 44 70 5.62351
r46 44 46 124.45
r47 40 78 5.62351
r48 40 42 110
r49 36 66 5.62351
r50 36 38 124.45
r51 32 77 5.62351
r52 32 34 110
r53 28 65 5.62351
r54 28 30 124.45
r55 24 72 5.62351
r56 24 26 110
r57 20 61 5.62351
r58 20 22 124.45
r59 16 60 5.62351
r60 16 18 124.45
r61 12 56 5.62351
r62 12 14 124.45
r63 8 59 0.143684
r64 8 9 0.0194228
r65 7 64 0.0233333
r66 7 9 0.0194228
r67 6 76 0.0478947
r68 3 9 0.0180446
r69 3 5 0.107
r70 2 6 0.0420923
r71 2 5 0.162
.ends

.subckt PM_HW2_PART1_2%noxref_4 22 29 30 36 37 43 50 51 57 58
c0 61 0 0.467355f
c1 54 0 0.456951f
c2 46 0 0.380284f
c3 40 0 0.457465f
c4 33 0 0.456951f
c5 25 0 0.365765f
c6 20 0 0.0386969f
c7 18 0 0.0386969f
c8 16 0 0.0466963f
c9 14 0 0.0466963f
c10 10 0 0.234898f
c11 8 0 0.165879f
c12 6 0 0.154637f
c13 4 0 0.181248f
c14 3 0 0.0631381f
c15 2 0 0.180961f
r16 61 63 0.2
r17 60 63 16.3327
r18 60 61 5.44423
r19 58 60 1.1475
r20 57 60 1.1475
r21 54 56 0.2
r22 53 56 16.3327
r23 53 54 5.44423
r24 51 53 1.1475
r25 50 53 1.1475
r26 46 49 0.2
r27 45 49 16.3327
r28 45 46 5.44423
r29 43 45 1.1475
r30 40 42 0.2
r31 39 42 16.3327
r32 39 40 5.44423
r33 37 39 1.1475
r34 36 39 1.1475
r35 33 35 0.2
r36 32 35 16.3327
r37 32 33 5.44423
r38 30 32 1.1475
r39 29 32 1.1475
r40 25 28 0.2
r41 24 28 16.3327
r42 24 25 5.44423
r43 22 24 1.143
r44 21 63 0.1414
r45 19 56 0.1414
r46 19 20 0.00770322
r47 17 49 0.1414
r48 17 18 0.00770322
r49 15 42 0.1414
r50 15 16 0.00770322
r51 13 35 0.1414
r52 13 14 0.00770322
r53 12 28 0.1414
r54 11 20 0.0296412
r55 10 21 0.039111
r56 10 11 0.206
r57 9 18 0.0296412
r58 8 20 0.0296412
r59 8 9 0.206
r60 7 16 0.0296412
r61 6 18 0.0296412
r62 6 7 0.242
r63 5 14 0.0296412
r64 4 16 0.0296412
r65 4 5 0.206
r66 3 12 0.039111
r67 2 14 0.0296412
r68 2 3 0.206
.ends

.subckt PM_HW2_PART1_2%VDD 56 57 64 65 71 72 78 79 85 86 92 93 99 106 113 114
+ 120 121 127 176
c0 180 0 0.571035f
c1 176 0 0.205423f
c2 173 0 0.660854f
c3 157 0 0.0431385f
c4 130 0 0.361527f
c5 124 0 0.541147f
c6 117 0 0.541117f
c7 109 0 0.301691f
c8 102 0 0.307709f
c9 96 0 0.548098f
c10 89 0 0.548181f
c11 82 0 0.548181f
c12 75 0 0.548181f
c13 68 0 0.548181f
c14 60 0 0.314128f
c15 55 0 0.0304721f
c16 54 0 0.107187f
c17 52 0 0.135609f
c18 51 0 0.023716f
c19 50 0 0.0227061f
c20 48 0 0.0063307f
c21 46 0 0.0063307f
c22 40 0 0.0885707f
c23 38 0 0.0266288f
c24 36 0 0.0266288f
c25 34 0 0.0266288f
c26 32 0 0.0266288f
c27 30 0 0.0266288f
c28 28 0 0.0266288f
c29 23 0 0.0201779f
c30 20 0 0.0836766f
c31 18 0 0.0836766f
c32 17 0 0.0126107f
c33 16 0 0.0836766f
c34 14 0 0.118302f
c35 12 0 0.118302f
c36 10 0 0.118302f
c37 8 0 0.118302f
c38 6 0 0.118302f
c39 4 0 0.118302f
c40 3 0 0.0513279f
c41 2 0 0.111767f
r42 172 173 16.3327
r43 170 173 0.192
r44 169 172 17.28
r45 169 170 5.44423
r46 165 170 0.288
r47 164 165 5.44423
r48 160 164 25.92
r49 160 161 8.16635
r50 157 180 0.0296412
r51 156 157 16.3327
r52 154 180 0.158
r53 153 156 17.28
r54 153 154 8.16635
r55 150 154 0.192
r56 146 150 0.288
r57 145 146 5.44423
r58 141 142 8.16635
r59 136 142 0.192
r60 136 176 0.142
r61 135 136 5.44423
r62 130 132 0.2
r63 129 132 8.16635
r64 129 130 5.44423
r65 127 129 0.918
r66 124 126 0.2
r67 123 126 8.16635
r68 123 124 5.44423
r69 121 123 0.918
r70 120 123 0.918
r71 117 119 0.2
r72 116 119 8.16635
r73 116 117 5.44423
r74 114 116 0.918
r75 113 116 0.918
r76 109 112 0.2
r77 108 112 8.16635
r78 108 109 5.44423
r79 106 108 0.918
r80 102 104 0.2
r81 101 104 8.16635
r82 101 102 5.44423
r83 99 101 0.9216
r84 96 98 0.2
r85 95 98 8.16635
r86 95 96 5.44423
r87 93 95 0.9216
r88 92 95 0.9144
r89 89 91 0.2
r90 88 91 8.16635
r91 88 89 5.44423
r92 86 88 0.9216
r93 85 88 0.9144
r94 82 84 0.2
r95 81 84 8.16635
r96 81 82 5.44423
r97 79 81 0.9216
r98 78 81 0.9144
r99 75 77 0.2
r100 74 77 8.16635
r101 74 75 5.44423
r102 72 74 0.9216
r103 71 74 0.9144
r104 68 70 0.2
r105 67 70 8.16635
r106 67 68 5.44423
r107 65 67 0.9216
r108 64 67 0.9144
r109 60 63 0.2
r110 59 63 8.16635
r111 59 60 5.44423
r112 57 59 0.9144
r113 56 169 17.28
r114 56 164 8.64
r115 56 153 17.28
r116 56 145 25.92
r117 56 150 5.44423
r118 56 141 8.64
r119 56 135 8.64
r120 55 165 0.1662
r121 54 161 0.086108
r122 54 55 0.035
r123 51 161 0.0381818
r124 51 52 0.035
r125 49 132 0.2256
r126 49 50 0.0296412
r127 47 126 0.2256
r128 47 48 0.00770322
r129 45 119 0.2256
r130 45 46 0.00770322
r131 44 112 0.2256
r132 42 146 0.414
r133 41 42 0.00411102
r134 40 41 0.1048
r135 39 104 0.2576
r136 39 40 0.035
r137 37 98 0.2576
r138 37 38 0.00770322
r139 35 91 0.2576
r140 35 36 0.00770322
r141 33 84 0.2576
r142 33 34 0.00770322
r143 31 77 0.2576
r144 31 32 0.00770322
r145 29 70 0.2576
r146 29 30 0.00770322
r147 27 63 0.2576
r148 27 28 0.00770322
r149 26 142 0.272
r150 25 157 0.0296412
r151 25 52 0.1864
r152 23 157 0.00770322
r153 22 50 0.0296412
r154 22 23 0.0664
r155 21 48 0.0296412
r156 20 50 0.00770322
r157 20 21 0.206
r158 19 46 0.0296412
r159 18 48 0.0296412
r160 18 19 0.206
r161 17 44 0.039111
r162 16 46 0.0296412
r163 16 17 0.206
r164 15 38 0.0296412
r165 14 40 0.00411102
r166 14 15 0.206
r167 13 36 0.0296412
r168 12 38 0.0296412
r169 12 13 0.206
r170 11 34 0.0296412
r171 10 36 0.0296412
r172 10 11 0.206
r173 9 32 0.0296412
r174 8 34 0.0296412
r175 8 9 0.206
r176 7 30 0.0296412
r177 6 32 0.0296412
r178 6 7 0.206
r179 5 28 0.0296412
r180 4 30 0.0296412
r181 4 5 0.206
r182 3 26 0.039111
r183 2 28 0.0296412
r184 2 3 0.227
.ends

.subckt PM_HW2_PART1_2%C 7 13 17 21 25 29 33 37 41 45 49 58
c0 74 0 0.432326f
c1 73 0 0.330209f
c2 63 0 0.173298f
c3 60 0 0.100762f
c4 58 0 0.250256f
c5 54 0 0.422601f
c6 53 0 0.151694f
c7 51 0 0.389533f
c8 49 0 0.235235f
c9 45 0 0.231674f
c10 41 0 0.206411f
c11 37 0 0.232512f
c12 33 0 0.206416f
c13 29 0 0.232514f
c14 25 0 0.206472f
c15 21 0 0.232477f
c16 17 0 0.254881f
c17 13 0 0.275505f
c18 8 0 0.103549f
c19 7 0 0.164609f
r20 86 87 10.8947
r21 84 86 1.18421
r22 84 85 4.4184
r23 82 84 9.71053
r24 81 82 10.8947
r25 80 85 0.21
r26 79 81 6.39474
r27 79 80 4.4184
r28 76 79 4.5
r29 72 74 7.57895
r30 72 73 6.6276
r31 70 72 3.31579
r32 69 70 10.8947
r33 68 73 0.14
r34 68 92 0.189737
r35 67 69 3.78947
r36 67 68 4.4184
r37 65 67 7.10526
r38 64 65 10.8947
r39 63 92 0.0194228
r40 62 64 9
r41 62 63 4.4184
r42 60 62 1.89474
r43 56 74 5.62351
r44 56 58 124.35
r45 54 85 0.14
r46 53 54 6.6276
r47 51 87 1.42105
r48 51 53 4.5
r49 47 87 5.62351
r50 47 49 110
r51 43 70 5.62351
r52 43 45 124.35
r53 39 86 5.62351
r54 39 41 110
r55 35 69 5.62351
r56 35 37 124.35
r57 31 82 5.62351
r58 31 33 110
r59 27 65 5.62351
r60 27 29 124.35
r61 23 81 5.62351
r62 23 25 110
r63 19 64 5.62351
r64 19 21 124.35
r65 15 76 5.62351
r66 15 17 110
r67 11 60 5.62351
r68 11 13 124.35
r69 8 80 0.0595614
r70 5 63 0.0180446
r71 5 7 0.107
r72 4 8 0.0420923
r73 4 7 0.162
.ends

.subckt PM_HW2_PART1_2%OUT 36 49 50 56 57 63 64 70 71 77 78 84 91 98 99 105 106
c0 109 0 0.45828f
c1 102 0 0.456777f
c2 94 0 0.388495f
c3 87 0 0.386324f
c4 81 0 0.450661f
c5 74 0 0.46047f
c6 67 0 0.570231f
c7 60 0 0.563751f
c8 53 0 0.571471f
c9 47 0 0.0386969f
c10 45 0 0.0395753f
c11 43 0 0.0386969f
c12 41 0 0.0399192f
c13 34 0 0.0585383f
c14 32 0 0.0172994f
c15 29 0 0.3457f
c16 26 0 0.249481f
c17 24 0 0.220059f
c18 22 0 0.164061f
c19 20 0 0.164747f
c20 19 0 0.129474f
c21 18 0 0.165818f
c22 17 0 0.22808f
c23 15 0 0.0371718f
c24 14 0 0.164278f
c25 12 0 0.103163f
c26 11 0 0.193012f
c27 10 0 0.0486467f
c28 9 0 0.0290379f
c29 8 0 1.05479f
c30 7 0 0.0625926f
c31 4 0 0.0984512f
c32 3 0 0.036363f
c33 2 0 0.10925f
r34 109 111 0.2
r35 108 111 16.3327
r36 108 109 5.44423
r37 106 108 1.1475
r38 105 108 1.1475
r39 102 104 0.2
r40 101 104 16.3327
r41 101 102 5.44423
r42 99 101 1.1475
r43 98 101 1.1475
r44 94 97 0.2
r45 93 97 16.3327
r46 93 94 5.44423
r47 91 93 1.1475
r48 87 89 0.2
r49 86 89 16.3327
r50 86 87 5.44423
r51 84 86 1.1475
r52 81 83 0.2
r53 80 83 16.3327
r54 80 81 5.44423
r55 78 80 1.1475
r56 77 80 1.1475
r57 74 76 0.2
r58 73 76 16.3327
r59 73 74 5.44423
r60 71 73 1.152
r61 70 73 1.143
r62 67 69 0.2
r63 66 69 8.16635
r64 66 67 5.44423
r65 64 66 0.918
r66 63 66 0.918
r67 60 62 0.2
r68 59 62 8.16635
r69 59 60 5.44423
r70 57 59 0.918
r71 56 59 0.918
r72 53 55 0.2
r73 52 55 8.16635
r74 52 53 5.44423
r75 50 52 0.918
r76 49 52 0.918
r77 48 67 0.2514
r78 46 111 0.1414
r79 46 47 0.00770322
r80 44 60 0.2514
r81 44 45 0.00770322
r82 42 104 0.1414
r83 42 43 0.00770322
r84 40 53 0.2504
r85 40 41 0.00770322
r86 39 97 0.1414
r87 37 39 0.127978
r88 33 87 0.242
r89 33 34 0.0296412
r90 31 81 0.242
r91 31 32 0.00770322
r92 30 74 0.242
r93 28 29 0.76
r94 27 47 0.0296412
r95 26 29 0.039111
r96 26 27 0.323
r97 25 45 0.0296412
r98 24 48 0.039111
r99 24 25 0.206
r100 23 43 0.0296412
r101 22 47 0.0296412
r102 22 23 0.206
r103 21 41 0.0296412
r104 20 45 0.0296412
r105 20 21 0.206
r106 19 39 0.0339335
r107 18 43 0.0296412
r108 18 19 0.206
r109 16 37 0.00518968
r110 16 17 0.2906
r111 14 41 0.0296412
r112 14 15 0.251
r113 13 36 0.0195555
r114 12 17 0.039111
r115 12 13 0.078
r116 11 15 0.039191
r117 10 36 0.0195555
r118 10 11 0.298
r119 8 28 0.039111
r120 8 9 1.937
r121 7 34 0.0296412
r122 6 9 0.039111
r123 6 7 0.1066
r124 5 32 0.0296412
r125 4 34 0.00770322
r126 4 5 0.182
r127 3 30 0.039111
r128 2 32 0.0296412
r129 2 3 0.206
.ends

.subckt PM_HW2_PART1_2%noxref_8 58 59 65 66 72 73 79 80 86 87 93 94 100 101 107
+ 108 114 115 121 128 129 135 136 142
c0 145 0 0.287782f
c1 139 0 0.53909f
c2 132 0 0.539056f
c3 124 0 0.381896f
c4 118 0 0.569301f
c5 111 0 0.562395f
c6 104 0 0.565362f
c7 97 0 0.550621f
c8 90 0 0.547946f
c9 83 0 0.547946f
c10 76 0 0.547946f
c11 69 0 0.547946f
c12 62 0 0.546855f
c13 56 0 0.0605155f
c14 53 0 0.0425267f
c15 51 0 0.0425267f
c16 47 0 0.0375743f
c17 45 0 0.0375743f
c18 43 0 0.0383938f
c19 41 0 0.0383938f
c20 39 0 0.0383938f
c21 37 0 0.0383938f
c22 35 0 0.0383938f
c23 33 0 0.0434079f
c24 31 0 0.0974251f
c25 28 0 0.163947f
c26 26 0 0.163947f
c27 25 0 0.0623465f
c28 24 0 0.163947f
c29 22 0 0.224616f
c30 20 0 0.162242f
c31 18 0 0.316233f
c32 16 0 0.164088f
c33 14 0 0.164086f
c34 12 0 0.164086f
c35 10 0 0.164086f
c36 8 0 0.163945f
c37 7 0 0.0276029f
c38 6 0 2.7694f
c39 5 0 0.0276029f
c40 4 0 0.295871f
c41 3 0 0.435383f
r42 145 147 0.2
r43 144 147 8.16635
r44 144 145 5.44423
r45 142 144 0.918
r46 139 141 0.2
r47 138 141 8.16635
r48 138 139 5.44423
r49 136 138 0.918
r50 135 138 0.918
r51 132 134 0.2
r52 131 134 8.16635
r53 131 132 5.44423
r54 129 131 0.918
r55 128 131 0.918
r56 124 127 0.2
r57 123 127 8.16635
r58 123 124 5.44423
r59 121 123 0.918
r60 118 120 0.2
r61 117 120 8.16635
r62 117 118 5.44423
r63 115 117 0.918
r64 114 117 0.918
r65 111 113 0.2
r66 110 113 8.16635
r67 110 111 5.44423
r68 108 110 0.918
r69 107 110 0.918
r70 104 106 0.2
r71 103 106 8.16635
r72 103 104 5.44423
r73 101 103 0.918
r74 100 103 0.918
r75 97 99 0.2
r76 96 99 8.16635
r77 96 97 5.44423
r78 94 96 0.9216
r79 93 96 0.9144
r80 90 92 0.2
r81 89 92 8.16635
r82 89 90 5.44423
r83 87 89 0.9216
r84 86 89 0.9144
r85 83 85 0.2
r86 82 85 8.16635
r87 82 83 5.44423
r88 80 82 0.9216
r89 79 82 0.9144
r90 76 78 0.2
r91 75 78 8.16635
r92 75 76 5.44423
r93 73 75 0.9216
r94 72 75 0.9144
r95 69 71 0.2
r96 68 71 8.16635
r97 68 69 5.44423
r98 66 68 0.9216
r99 65 68 0.9144
r100 62 64 0.2
r101 61 64 8.16635
r102 61 62 5.44423
r103 59 61 0.9216
r104 58 61 0.9144
r105 55 147 0.2266
r106 54 56 0.089
r107 54 55 0.00411102
r108 52 141 0.2266
r109 52 53 0.00770322
r110 50 134 0.2266
r111 50 51 0.00770322
r112 49 127 0.2266
r113 48 118 0.2448
r114 46 111 0.2448
r115 46 47 0.00770322
r116 44 104 0.2448
r117 44 45 0.00770322
r118 42 97 0.2444
r119 42 43 0.00770322
r120 40 90 0.2444
r121 40 41 0.00770322
r122 38 83 0.2444
r123 38 39 0.00770322
r124 36 76 0.2444
r125 36 37 0.00770322
r126 34 69 0.2444
r127 34 35 0.00770322
r128 32 62 0.2326
r129 32 33 0.00770322
r130 30 56 0.00411102
r131 30 31 0.1858
r132 29 53 0.0296412
r133 28 54 0.035
r134 28 29 0.206
r135 27 51 0.0296412
r136 26 53 0.0296412
r137 26 27 0.206
r138 25 49 0.039111
r139 24 51 0.0296412
r140 24 25 0.206
r141 23 47 0.0296412
r142 22 48 0.039111
r143 22 23 0.206
r144 21 45 0.0296412
r145 20 47 0.0296412
r146 20 21 0.206
r147 19 43 0.0296412
r148 18 45 0.0296412
r149 18 19 0.5
r150 17 41 0.0296412
r151 16 43 0.0296412
r152 16 17 0.206
r153 15 39 0.0296412
r154 14 41 0.0296412
r155 14 15 0.206
r156 13 37 0.0296412
r157 12 39 0.0296412
r158 12 13 0.206
r159 11 35 0.0296412
r160 10 37 0.0296412
r161 10 11 0.206
r162 9 33 0.0296412
r163 8 35 0.0296412
r164 8 9 0.206
r165 6 31 0.039111
r166 6 7 4.429
r167 4 33 0.0296412
r168 4 5 0.578
r169 3 7 0.039111
r170 2 5 0.039111
r171 2 3 0.915
.ends

